US07538123B2
(5) 1-{1-[2-(6-Methoxy-1-methyl-2-oxo-1,4-dihydro-2H-benz[d](1,3)-oxazin-7-yl)ethyl]piperidin-4-yl}-N-methyl-1H-indole-6-carboxamide
80 mg of N-methyl-1-(piperidin-4-yl)-1H-indole-6-carboxamide and 83 mg of (6-methoxy-1-methyl-2-oxo-1,4-dihydro-2H-benz[d][1,3]oxazin-7-yl)acetaldehyde were dissolved in 6 ml of methylene chloride. Thereafter, 0.04 ml of acetic acid and 99 mg of sodium triacetoxyborohydride were added to the reaction solution, and the obtained mixture was then stirred at room temperature for 3 hours. Thereafter, a saturated sodium bicarbonate aqueous solution was added to the reaction solution, and then extracted with methylene chloride. The extract was dried over magnesium sulfate and then concentrated under a reduced pressure. The residue was purified by silica gel column chromatography (methanol-ethyl acetate), so as to obtain 141 mg of the subject compound.

reactant | N-methyl-1-(piperidin-4-yl)-1H-indole-6-carboxamide | 80 mg | CNC(=O)C1=CC=C2C=CN(C2=C1)C1CCNCC1 | C15H19N3O
reactant | (6-methoxy-1-methyl-2-oxo-1,4-dihydro-2H-benz[d][1,3]oxazin-7-yl)acetaldehyde | 83 mg | COC1=CC2=C(N(C(OC2)=O)C)C=C1CC=O | C12H13NO4
reactant | sodium triacetoxyborohydride | 99 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 6 ml | C(Cl)Cl | CH2Cl2
solvent | acetic acid | 0.04 ml | C(C)(=O)O | C2H4O2
product | 1-{1-[2-(6-Methoxy-1-methyl-2-oxo-1,4-dihydro-2H-benz[d](1,3)-oxazin-7-yl)ethyl]piperidin-4-yl}-N-methyl-1H-indole-6-carboxamide | 141 mg | COC1=CC2=C(N(C(OC2)=O)C)C=C1CCN1CCC(CC1)N1C=CC2=CC=C(C=C12)C(=O)NC | C27H32N4O4
